US06232290B1
To a solution of 4-[2-(4-butyloxyphenyl)imidazo[2,1-b]-[1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester trifluoroacetic acid salt (2.05 g) in the mixture of methanol (41 ml) and tetrahydrofuran (20.5 ml) was added 2N NaOH aq. (19.1 ml) and refluxed for 17 hours. The reaction mixture was adjusted to pH 1-2 with 1N HCl and the resulting precipitate was collected by filtration to give 4-[2-(4-butyloxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid (1.544 g).

reactant | 4-[2-(4-butyloxyphenyl)imidazo[2,1-b]-[1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester trifluoroacetic acid salt | 2.05 g | FC(C(=O)O)(F)F.C(C)OC(C1=CC=C(C=C1)C=1N=C2SC(=NN2C1)C1=CC=C(C=C1)OCCCC)=O
reactant | methanol | 41 ml | CO | CH4O
reactant | NaOH | 2N, 19.1 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 20.5 ml | O1CCCC1 | C4H8O
product | 4-[2-(4-butyloxyphenyl)imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid | 1.544 g | C(CCC)OC1=CC=C(C=C1)C1=NN2C(S1)=NC(=C2)C2=CC=C(C(=O)O)C=C2 | C21H19N3O3S
